US06191150B1
Diisopropylamine (8.61 mL, 65.7 mmol) is dissolved in 40 mL of anhydrous THF and chilled to 0° C. n-Butyllithium (30.1 mL of a 2.0M solution in hexanes, 60.2 mmol) is added dropwise over 10 min and the resulting pale yellow solution cooled to −78° C. A 15-mL THF solution of methyl (3R)-3-hydroxyhexanoate (4.00 g, 27.4 mmol) is added over 10 min and stirred for 30 min. Benzyl bromide (3.60 mL, 30.1 mmol) is dissolved in 12 mL of a 1:1 THF/HMPA solution and added at −78° C. dropwise. The resulting solution is allowed to warm slowly to 0° C. over 3 h. Aqueous 5% citric acid solution (250 mL) is added and the organics are extracted with two 250-mL portions of ether. The combined organics are washed with saturated aqueous sodium chloride. Drying over sodium sulfate and concentration is followed by which is chromatography on silica gel (elution with 25% EtOAc-hexanes) giving methyl (2R,3R)-2-benzyl-3-hydroxyhexanoate as an oil (3.03 g, 64% yield).

reactant | Diisopropylamine | 65.7 mmol, 8.61 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyllithium | C(CCC)[Li]
reactant | methyl (3R)-3-hydroxyhexanoate | 27.4 mmol, 4.00 g | O[C@@H](CC(=O)OC)CCC | C7H14O3
reactant | Benzyl bromide | 30.1 mmol, 3.60 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | citric acid | 250 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF HMPA | 12 mL | C1CCOC1.CN(C)P(=O)(N(C)C)N(C)C
solvent | THF | 15-mL | C1CCOC1 | C4H8O
product | methyl (2R,3R)-2-benzyl-3-hydroxyhexanoate | 3.03 g, 64% yield | C(C1=CC=CC=C1)[C@@H](C(=O)OC)[C@@H](CCC)O | C14H20O3
